US06310070B1
An amidation reaction and post-treatment were carried out following the conditions of Example 22 using 1.50 g (6.14 mmol) of 4-amino-1-(3-phenylpropyl)-5-imidazolecarboxamide which was prepared in the same manner as in Example 114 and 2-fluorobenzoyl chloride instead of benzoyl chloride to obtain 1.97 g of 4-(2-fluorobenzoylamino)-1-(3-phenylpropyl)-5-imidazolecarboxamide (yield 88%).

reactant | 4-amino-1-(3-phenylpropyl)-5-imidazolecarboxamide | 6.14 mmol, 1.50 g | NC=1N=CN(C1C(=O)N)CCCC1=CC=CC=C1 | C13H16N4O
reactant | 2-fluorobenzoyl chloride | FC1=C(C(=O)Cl)C=CC=C1 | C7H4ClFO
product | 4-(2-fluorobenzoylamino)-1-(3-phenylpropyl)-5-imidazolecarboxamide | 1.97 g, yield 88% | FC1=C(C(=O)NC=2N=CN(C2C(=O)N)CCCC2=CC=CC=C2)C=CC=C1 | C20H19FN4O2
